US08377932B2
The preparation of 1-(3-chlorobenzyl)-5-(trifluoromethyl)pyridin-2(1H)-one includes steps of: dissolving 0.49 g (3.0 mmol) of 5-(trifluoromethyl)pyridin-2(1H)-one in 20 ml of DMF; adding 0.66 g (4.8 mmol) of sodium carbonate and 0.85 g (4.5 mmol) 1-(bromomethyl)-2-fluorobenzene; carrying out refluxing reaction for 3 hours; adding 40 ml of 15% ammonia solution; extracting by ethyl acetate (30+20+20 mL); drying by anhydrous sodium sulfate; filtering; evaporating filtrate; and separating residue by column chromatography with eluent of petroleum ether and ethyl acetate with proportion of 6:1 to obtain 0.65 of the product 1-(2-fluorobenzyl)-5-(trifluoromethyl)pyridin-2(1H)-one as a colorless oil. EI-MS (m/z): 271[M]+. 1H-NMR (CDCl3, 300 MHz): δ ppm: 5.176 (s, 2H, —CH2—), 6.623˜6.655 (d, 1H, J=9, 6 Hz, Ar—H), 7.074˜7.178 (m, 2H, Ar—H), 7.301˜7.377 (m, 1H, Ar—H), 7.410˜7.505 (m, 2H, Ar—H), 7.795 (s, 1H, Ar—H).

reactant | 1-(3-chlorobenzyl)-5-(trifluoromethyl)pyridin-2(1H)-one | ClC=1C=C(CN2C(C=CC(=C2)C(F)(F)F)=O)C=CC1 | C13H9ClF3NO
reactant | 5-(trifluoromethyl)pyridin-2(1H)-one | 3.0 mmol, 0.49 g | FC(C=1C=CC(NC1)=O)(F)F | C6H4F3NO
reactant | sodium carbonate | 4.8 mmol, 0.66 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-(bromomethyl)-2-fluorobenzene | 4.5 mmol, 0.85 g | BrCC1=C(C=CC=C1)F | C7H6BrF
reactant | ammonia | 40 ml | N | H3N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-(2-fluorobenzyl)-5-(trifluoromethyl)pyridin-2(1H)-one | FC1=C(CN2C(C=CC(=C2)C(F)(F)F)=O)C=CC=C1 | C13H9F4NO
